US08623859B2
N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-{[2-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)-1,3-oxazol-5-yl]methyl}benzenesulfonamide
To a stirred solution of ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](cyclopropyl)amino}methyl)-1,3-oxazole-2-carboxylate (25 mg, 0.07 mmol) and 1-(N-methylpiperidin-4-yl-methyl)piperazine (26 mg, 0.13 mmol) in DCE (1 mL) was added trimethylaluminium 2M in toluene (65 μL, 0.13 mmol) and the mixture stirred at 60° C. for 1.5 h. The reaction mixture was washed with saturated aqueous NaHCO3 and extracted with DCM. The organic extract was dried over MgSO4, and concentrated in vacuo. The residue was purified by FCC eluting with 95:4.5:0.5 NH3/MeOH/DCM. This afforded the title compound as a colourless oil.

reactant | ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](cyclopropyl)amino}methyl)-1,3-oxazole-2-carboxylate | 0.07 mmol, 25 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C1CC1)CC1=CN=C(O1)C(=O)OCC)C | C19H24N2O6S
reactant | 1-(N-methylpiperidin-4-yl-methyl)piperazine | 0.13 mmol, 26 mg | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
reactant | trimethylaluminium | 2M | C[Al](C)C
reactant | toluene | 0.13 mmol, 65 μL | C1(=CC=CC=C1)C | C7H8
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-{[2-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)-1,3-oxazol-5-yl]methyl}benzenesulfonamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CN=C(O1)C(=O)N1CCN(CC1)CC1CCN(CC1)C | C28H41N5O5S
